US08486970B2
To a mixed liquid of 5.00 g of methyl 5-formylthiophene-3-carboxylate and 50 ml of THF was added 0.67 g of sodium borohydride under ice-cooling. To the reaction solution was added dropwise 5 ml of methanol, followed by stirring for 1 hour under ice-cooling. The reaction solution was added with 1 M hydrochloric acid, extracted with ethyl acetate, and washed with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then evaporated to obtain 4.86 g of methyl 5-(hydroxymethyl)thiophene-3-carboxylate as a pale yellow oily substance.

reactant | methyl 5-formylthiophene-3-carboxylate | 5.00 g | C(=O)C1=CC(=CS1)C(=O)OC | C7H6O3S
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | sodium borohydride | 0.67 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | methyl 5-(hydroxymethyl)thiophene-3-carboxylate | 4.86 g | OCC1=CC(=CS1)C(=O)OC | C7H8O3S
